US04479953
5,6-Dichloro-3-[(o-chlorophenyl)thioimino]methylpyrazinamine by the reaction of o-chlorobenzenesulfenyl chloride with ammonium hydroxide to form o-chlorobenzenesulfenamide, followed by the reaction of the latter with 3-amino-5,6-dichloropyrazinealdehyde.

reactant | 5,6-Dichloro-3-[(o-chlorophenyl)thioimino]methylpyrazinamine | ClC=1N=C(C(=NC1Cl)N)C=NSC1=C(C=CC=C1)Cl | C11H7Cl3N4S
reactant | o-chlorobenzenesulfenyl chloride | ClC1=C(C=CC=C1)SCl | C6H4Cl2S
reactant | ammonium hydroxide | [OH-].[NH4+]
product | o-chlorobenzenesulfenamide | ClC1=C(C=CC=C1)SN | C6H6ClNS
